US09315763B2
(b) Synthesis of (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 2-oxo-2-(4-vinylphenyl)acetate
A Grignard reagent prepared from 4-bromostyrene (2.75 g, 15.0 mmol) and magnesium (0.39 g, 16.0 mmol) in THF (20 mL) was added dropwise (during a period of 20 min) to a stirred solution of bis[(1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)oxalate (5.00 g, 13.7 mmol) in THF (15 mL) at −60° C. The mixture was left warming to room temperature and poured into a mixture of ice (200 g) and a saturated solution of NH4Cl (10 mL). Extraction with diethyl ether (2×), washing with water (3×), drying (Na2SO4) and concentrating afforded 6.42 g of the crude compound as an oil. Repetitive column chromatography (SiO2, heptane/ether 7:3 and heptane/ether 95:5) gave 2.03 g (47%) of an oil.

reactant | 4-bromostyrene | 15.0 mmol, 2.75 g | BrC1=CC=C(C=C)C=C1 | C8H7Br
reactant | magnesium | 16.0 mmol, 0.39 g | [Mg] | Mg
reactant | bis[(1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)oxalate | 13.7 mmol, 5.00 g | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)OC(C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)=O | C22H38O4
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | heptane ether | CCCCCCC.CCOCC
product | (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 2-oxo-2-(4-vinylphenyl)acetate | 2.03 g, 47% | O=C(C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)C1=CC=C(C=C1)C=C | C20H26O3
